US08304443B2
Tert-butyl6-(tert-butyldiphenylsilyloxy)-3-cyclobutylindazole-1-carboxylate
6-(Tert-butyldiphenylsilyloxy)-3-cyclobutylindazole (9.93 g) which can be prepared according to the method described in Reference example 12, etc. was dissolved in dehydrated THF (200 mL; manufactured by Kanto Chemical Co., Inc.), and added with triethylamine (3.90 mL), DMAP (1.51 g) and Boc2O (3.14 mL), followed by stirring for 4 hours at room temperature. The reaction solution was concentrated under reduced pressure, and the residue was added with ethyl acetate, and then washed twice with 1 mol/L hydrochloric acid. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain the title compound as a crude product (12.92 g).

reactant | 6-(Tert-butyldiphenylsilyloxy)-3-cyclobutylindazole | 9.93 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(=NNC2=C1)C1CCC1 | C27H30N2OSi
reactant | triethylamine | 3.90 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 3.14 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 1.51 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Tert-butyl6-(tert-butyldiphenylsilyloxy)-3-cyclobutylindazole-1-carboxylate | C(C)(C)(C)OC(=O)N1N=C(C2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1CCC1 | C32H38N2O3Si
